US05684204
1-(3,5-di-t-butyl-4-hydroxyphenyl)-2-(methylsulfinyl)ethanone
1-(3,5-di-t-butyl-4-hydroxyphenyl)-2-(methylsulfanyl)ethanone (15.00 g, 50.94 mmol) is dissolved in CH2Cl2 (100 mL) in a flame-dried flask under argon then cooled in an ice/H2O bath. mCPBA (85%, 10.45 g, 51.47 mmol) is added carefully, generating some gas evolution of H2. The reaction is stirred for 1.75 h while maintaining the bath temperature until the last 20 minutes when the bath is allowed to warm. The reaction is then poured into saturated bicarbonate, separated and extracted with 2× CH2Cl2. The organics are concentrated on a rotavap then dried under vacuum (being careful of foaming). This gives a light tan foam which is purified by flash chromatography on silica with 1.6 L 27.5% acetone in hexanes then 100% acetone. A white solid is obtained which can be crystallized with EtOAc/hexanes with refrigeration to give white crystals, mp=143.6°-144.9° C.

reactant | 1-(3,5-di-t-butyl-4-hydroxyphenyl)-2-(methylsulfanyl)ethanone | 50.94 mmol, 15.00 g | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C(CSC)=O | C17H26O2S
reactant | mCPBA | 51.47 mmol, 10.45 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | bicarbonate | C([O-])(O)=O
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | 1-(3,5-di-t-butyl-4-hydroxyphenyl)-2-(methylsulfinyl)ethanone | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C(CS(=O)C)=O | C17H26O3S
